data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_246442_0,[C:1]1([C:3](=[O:6])[H:10])([O:5][H:7])[C:2]([H:8])([H:9])[O:4]1>>[C:1](=[C:2]([H:8])[H:9])([O:4][C:3](=[O:6])[H:10])[O:5][H:7],64.46495749996473
MR_224668_0,[C:1]([O:4][C:2]([N:3]([H:9])[H:10])=[O:7])([O:5][H:8])=[O:6]>>[C:1]([O:5][H:8])(=[O:6])[O:7][C:2]([N:3]([H:9])[H:10])=[O:4],25.55180000001357
MR_122297_0,[C:1]1([H:9])([H:10])[C:4]([O:7][H:8])=[C:5]([C:3]([H:13])([H:14])[H:15])[C:2]([H:11])([H:12])[O:6]1>>[C:1](=[C:4]([C:5]1([C:3]([H:13])([H:14])[H:15])[C:2]([H:11])([H:12])[O:6]1)[O:7][H:8])([H:9])[H:10],69.78490250001613
MR_256877_1,[C@:1]([C:2]([N:4]([H:10])[H:11])=[O:8])(/[C:3]([N:6]([H:14])[H:15])=[N:7]/[H:16])([N:5]([H:12])[H:13])[H:9]>>[C:1](=[C:3](/[N:6]([H:14])[H:15])[N:7]([C:2]([N:4]([H:10])[H:11])=[O:8])[H:16])(\[N:5]([H:12])[H:13])[H:9],63.398207500018486
MR_434383_1,[C@:1]([C@:2]([C:3]([H:15])([H:16])[H:17])([O:8][H:12])[H:14])([C:5]([C:6]([C:4]([H:18])([H:19])[H:20])=[O:10])=[O:9])([O:7][H:11])[H:13]>>[C@:1]([C:5]([C@:2]([C:3]([H:15])([H:16])[H:17])([O:8][H:12])[H:14])=[O:9])([C:6]([C:4]([H:18])([H:19])[H:20])=[O:10])([O:7][H:11])[H:13],50.32863749991492
MR_411623_1,[C:1]([C:4](=[C:5]([C:2]([H:15])([H:16])[H:18])[C:3]([H:17])([H:19])[H:20])[N:6]([H:9])[H:10])(/[C:7](=[N:8]\[H:11])[H:14])([H:12])[H:13]>>[C:1](=[C:4]([C:5]([C:2]([H:15])([H:16])[H:18])([C:3]([H:17])([H:19])[H:20])/[C:7](=[N:8]\[H:11])[H:14])[N:6]([H:9])[H:10])([H:12])[H:13],63.09387000000214
MR_265585_1,[C:1](=[C:6](/[C:2]([H:15])([H:16])[H:17])[C:7]([C:3]([H:18])([H:19])[H:23])([C:4]([H:20])([H:21])[H:22])[C:5]([O:9][H:11])=[O:10])(\[N:8]([H:13])[H:14])[H:12]>>[C:1]([C:5]([O:9][H:11])=[O:10])([C:6]([C:2]([H:15])([H:16])[H:17])=[C:7]([C:3]([H:18])([H:19])[H:23])[C:4]([H:20])([H:21])[H:22])([N:8]([H:13])[H:14])[H:12],72.07465000001349
MR_663371_0,[O:1](/[N:3]=[N:4]/[O:2][H:6])[H:5]>>[O:1](/[N:4]=[N:3]/[O:2][H:6])[H:5],66.00233249997117
MR_140050_0,[C:1]([N:2]([N:3]([H:6])[H:7])[N:4]=[O:5])([H:8])([H:9])[H:10]>>[C:1]([O:5]/[N:4]=[N:2]/[N:3]([H:6])[H:7])([H:8])([H:9])[H:10],54.93385999998736
MR_309646_1,[C:1]([C:3]([C:2]([C:7]([H:24])([H:25])[H:26])([C:8]([C:4]([H:17])([H:18])[H:19])([C:6]([H:21])([H:22])[H:23])[O:10][H:11])[H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:20])=[O:9]>>[C:1]([C:3]([C:2]([C:7]([H:24])([H:25])[H:26])([C:8]([C:6]([H:21])([H:22])[H:23])=[O:10])[H:12])([H:13])[H:14])([C:4]([H:17])([H:18])[H:19])([C:5]([H:15])([H:16])[H:20])[O:9][H:11],66.2094074999834
MR_253861_1,[C@:1]([C:2]([H:12])([H:13])[H:14])([N:3]([H:8])[H:9])([C:4](=[O:7])[H:10])[C:5](=[C:6]([H:15])[H:16])[H:11]>>[C:1](\[C:2]([H:12])([H:13])[H:14])([N:3]([H:8])[H:9])=[C:5](\[C:6]([C:4](=[O:7])[H:10])([H:15])[H:16])[H:11],59.054025000000365
MR_610148_1,[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:3]([H:13])([H:14])[N:7]([N:8]([C:6]([H:21])([H:22])[H:23])[H:10])[C:2]([H:11])([H:12])[O:9]1>>[C:1]([C:3]([N:7]([C:2]([O:9][H:19])([H:11])[H:12])[N:8]([C:6]([H:21])([H:22])[H:23])[H:10])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])=[C:5]([H:18])[H:20],63.45719250001224
MR_129551_0,[C:1]([C:2](/[C:3](=[N:6]\[O:4][H:8])[H:12])=[O:7])([O:5][H:9])([H:10])[H:11]>>[C:1]([C@@:3]1([H:12])[C:2](=[O:7])[N:6]1[O:4][H:8])([O:5][H:9])([H:10])[H:11],72.53711749995162
MR_286141_0,[C:1]([N:3]([N:5]=[O:6])[H:8])([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:9])[H:10]>>[C:1]([N:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])[H:8])([N:5][O:6])([H:9])[H:10],71.54190250000312
MR_677078_0,[C:1]([C:3]([C:2]([N:4]([H:9])[H:10])=[O:7])([N:5]([H:11])[H:12])[C:6](=[O:8])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:3](=[C:2](\[N:4]([H:9])[H:10])[O:7][C:6](=[O:8])[H:13])[N:5]([H:11])[H:12])([H:14])([H:15])[H:16],55.37875750000552
MR_223879_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])=[C:5]([C:4]([H:17])([H:18])[H:19])[N:8](/[N:6]=[N:7]/[H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:5](/[N:6]=[N:7]/[H:9])=[N:8]/[H:10],68.75768500000575
MR_704107_1,[C:1](/[C:4](=[C:3](/[N:2](/[C:6](=[N:8]/[H:13])[H:14])[H:10])[N:5]([H:11])[H:12])[O:7][H:9])([H:15])([H:16])[H:17]>>[C:1]([C:4]([C:3]1([N:5]([H:11])[H:12])[N:2]([H:10])/[C:6]1=[N:8]/[H:13])([O:7][H:9])[H:14])([H:15])([H:16])[H:17],54.360952499971376
MR_195569_1,[C:1]([C:7]([C:3]([N:5]([H:11])[H:12])=[O:9])(/[C:4](=[N:2]/[O:8][H:10])[N:6]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1](/[C:7](=[C:4](\[N:2]([C:3]([N:5]([H:11])[H:12])=[O:9])[O:8][H:10])[N:6]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18],66.19371999998734
MR_392976_1,[C:1]([C:2]([H:13])([H:14])[H:18])([C:3]([H:15])([H:16])[H:17])([C:5]([C:4]([H:19])([H:20])[H:21])=[O:9])/[C:7](=[C:6](\[O:8][H:10])[H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:18])([C:3]([H:15])([H:16])[H:17])=[C:7]([C:6]([C:5]([C:4]([H:19])([H:20])[H:21])=[O:9])([O:8][H:10])[H:11])[H:12],56.24596249999186
